*//////////////////////////////////////////////////////////////////////
* Models developed by:
* Lucas Costa | lucasfrct@gmail.com
* Model format: SPICE3
* Model generated on May 2019
*//////////////////////////////////////////////////////////////////
************ Power Discrete BJT Electrical Parameters ***************
** Product: 2SC5200/FJL4315
** Package: TO-264
** Audio Power Amplifier (Complement to 2SA1943/FJL4215)
** Farchild Semiconductor
** NPN Epitaxial Silicon Transistor Bipolar Junction (TO-264). 
** High Voltage. Low Noise. Transistor Bipolar Si
** Ic 15A, Ib 1.5A, Vcb 230V, Vce 230V, Veb 5V, Hfe 60, Cob 360pF, Tjmax 150º Freq, 30MHz
**-------------------------------------------------------------------
* connections:    
*				(C) Collector
*				|   (B) Base
*				|   |   (E) Emitter
*				|   |   |
.subckt 2SC5200 1 	2 	3
q1 1 2 3 Q2SC5200
.model Q2SC5200 NPN (Mfg=Farchild type=Audio Power Amplifier IS = 3.0463E-11 BF  = 96.20 VAF = 100 IKF = 15.04256 ISE = 5.6190E-11 NE  = 2.0 BR  = 4.849 IKR = 1.05012 VAR = 100 ISC = 7.18E-8 NC  = 1.5 RE  = 0.0025 RB  = 20.18  RBM = 0.0014 IRB = 1.0E-7 RC  = 0.01137 CJE = 4.5000E-10 CJC = 8.4915E-10 VJC = 0.68977 MJC = 0.54081 TF  = 6.8583E-10 XTF = 9.5721 VTF = 10.425 ITF = 6.8697E-2 TR  = 1.000E-8 XTB = 1.45 EG  = 0.82 FC  =  0.5)
.ends 2SC5200
***************** Power Discrete Bipolar Thermal Model ****************
.subckt 2SC5200_Thermal TH TL
CTHERM1 TH 6 1.84e-3
CTHERM2 6 5  4.24e-3
CTHERM3 5 4  4.62e-3
CTHERM4 4 3  6.24e-3
CTHERM5 3 2  7.02e-2
CTHERM6 2 TL 8.02e-2
RTHERM1 TH 6 2.30e-3
RTHERM2 6 5  1.10e-2
RTHERM3 5 4  1.70e-2
RTHERM4 4 3  2.00e-1
RTHERM5 3 2  2.40e-1
RTHERM6 2 TL 3.50e-1
.ends 2SC5200_Thermal